US09303023B2
To a solution of 3-(4-nitro-1H-pyrazol-1-yl)propanal (722 mg, 4.27 mmol) in MeCN (7.0 mL) and DCM (5.0 mL), indoline (0.48 mL, 4.27 mmol) was added, followed by STAB (1.36 g, 6.40 mmol) and one drop of AcOH. The resulting yellow suspension was stirred at rt for 1 h 15 min, then water and DCM was added and the org. layer was separated. The aq. layer was extracted with DCM and the combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield 1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline as a yellow oil which was used without further purification in the next step. LC-MS conditions B: tR=0.76 min, [M+H]+=273.06.

reactant | 3-(4-nitro-1H-pyrazol-1-yl)propanal | 4.27 mmol, 722 mg | [N+](=O)([O-])C=1C=NN(C1)CCC=O | C6H7N3O3
reactant | indoline | 4.27 mmol, 0.48 mL | N1CCC2=CC=CC=C12 | C8H9N
reactant | water | O | H2O
solvent | MeCN | 7.0 mL | CC#N | C2H3N
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | AcOH | one drop | CC(=O)O | C2H4O2
product | 1-(3-(4-nitro-1H-pyrazol-1-yl)propyl)indoline | [N+](=O)([O-])C=1C=NN(C1)CCCN1CCC2=CC=CC=C12 | C14H16N4O2
